US04224330
To a stirred solution of α-cyano-4-fluoro-3-phenoxybenzyl alcohol (437 mg, 1.8 mmol), 2-(2-benzothienyl)-3-methylbutanoic acid (2.0 mmol) and 4-dimethylaminopyridine (0.65 mmol) in 20 ml of methylene chloride and 2 ml of dimethylformamide is added N,N'-dicyclohexylcarbodiimide (2.0 mmol). The reaction mixture is stirred, under nitrogen, for two hours and then filtered and extracted with water. The aqueous phase is extracted with ether. The combined organic phases are washed with saturated aqueous sodiun bicarbonate, water and saturated aqueous sodium chloride, dried over calcium sulfate and solvent evaporated to give α-cyano-4-fluoro-3-phenoxybenzyl 2-(2-benzothienyl)-3-methylbutanoate.

reactant | α-cyano-4-fluoro-3-phenoxybenzyl alcohol | 1.8 mmol, 437 mg | C(#N)C(C1=CC(=C(C=C1)F)OC1=CC=CC=C1)O | C14H10FNO2
reactant | 2-(2-benzothienyl)-3-methylbutanoic acid | 2.0 mmol | S1C(=CC2=C1C=CC=C2)C(C(=O)O)C(C)C | C13H14O2S
reactant | N,N'-dicyclohexylcarbodiimide | 2.0 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.65 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | α-cyano-4-fluoro-3-phenoxybenzyl 2-(2-benzothienyl)-3-methylbutanoate | S1C(=CC2=C1C=CC=C2)C(C(=O)OC(C2=CC(=C(C=C2)F)OC2=CC=CC=C2)C#N)C(C)C | C27H22FNO3S
